US05602253
(iii) (3RS)-1-benzyl-3-cyanomethyl pyrrolidine
16.8 g (0.08 mole) (3RS)-1-benzyl-3-chloromethyl pyrrolidine and 5.88 g (0.12 mole) of sodium cyanide was dissolved in 250 ml dimethyl sulfoxide. The mixture was stirred at 60° C. for two days and at room temperature for one week. Water was added and the mixture was extracted three times with ethyl acetate. The combined organic layer was washed with brine, dried (Na2SO4), filtered and evaporated to yield 14.7 g (92%) of the product.

reactant | (3RS)-1-benzyl-3-chloromethyl pyrrolidine | 0.08 mole, 16.8 g | C(C1=CC=CC=C1)N1CC(CC1)CCl | C12H16ClN
reactant | sodium cyanide | 0.12 mole, 5.88 g | [C-]#N.[Na+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
product | (3RS)-1-benzyl-3-cyanomethyl pyrrolidine | 14.7 g, 92% | C(C1=CC=CC=C1)N1CC(CC1)CC#N | C13H16N2
